US04287213
In this example 2143 g (22.77 mol) of phenol and 906 g (22.66 mol) of sodium hydroxide were mixed together in a stirred mixture of 5.5 liters of dimethyl sulfoxide and 5.5 liters of toluene at room temperature. The mixture was then heated at reflux for 54 hours. The water formed by the reaction was removed from the reflux trap along with a substantial portion of the toluene and a small amount of the dimethyl sulfoxide (total volume collected 4910 ml of which 690 ml were water). The temperature of the remaining reaction mixture, now containing sodium phenolate, was permitted to drop to 155° C. and 44 g of powdered copper was added. 4730 g (22 mol) of 1,2-dichloro-4-trifluoromethylbenzene was then added dropwise while maintaining the reaction mixture at 153°-155° C. After addition of the 1,2-dichloro-4-trifluoromethylbenzene, the reaction mixture was maintained at 155° C. for about 30 minutes and then allowed to stand overnight (about 12 hours) at room temperature. The reaction mixture was poured onto cold 0.5% HCl. phase separated and extracted with methylene chloride. Combined organics were washed with 5% sodium hydroxide and with water, dried over magnesium sulfate and silica, and filtered. The filtrate was then stripped (evaporated) affording 5906 g of 4-(2-chloro-4-trifluoromethylphenoxy)benzene as a yellow oil.

reactant | phenol | 22.77 mol, 2143 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 22.66 mol, 906 g | [OH-].[Na+]
reactant | 1,2-dichloro-4-trifluoromethylbenzene | 22 mol, 4730 g | ClC1=C(C=C(C=C1)C(F)(F)F)Cl | C7H3Cl2F3
reactant | HCl | Cl | ClH
catalyst | copper | 44 g | [Cu] | Cu
solvent | water | O | H2O
solvent | toluene | 5.5 liters | C1(=CC=CC=C1)C | C7H8
solvent | dimethyl sulfoxide | 5.5 liters | CS(=O)C | C2H6OS
product | 4-(2-chloro-4-trifluoromethylphenoxy)benzene | 5906 g | ClC1=C(OC2=CC=CC=C2)C=CC(=C1)C(F)(F)F | C13H8ClF3O
